US05854275
To a solution of 4-hydroxy-2-{1-[2-(4-methoxyphenyl)-1-(methylcarbamoyl)ethylcarbamoyl]cyclopentylmethyl}butyric acid tert-butyl ester (500 mg, 1.05 mmol) in dry tetrahydrofuran (20 mL) was added 1,3-dioxo-1,3-dihydrobenzo[f]isoindole (414 mg, 2.1 mmol), triphenylphosphine (550 mg, 2.1 mmol) and diethylazodicarboxylate (0.33 mL, 2.1 mmol) and the resulting mixture was stirred for 10 days. The solvent was evaporated under vacuum and the residue was chromatographed on silica gel eluting with 30% ethyl acetate in hexane. Fractions containing the two diastereomeric products were combined and evaporated to leave a solid which was recrystallized from ethyl acetate to afford 4-(1,3-dioxo-1,3-dihydrobenzo[f]isoindol-2-yl)-2-{1-[2-(4-methoxyphenyl)-1-(methylcarbamoyl)ethylcarbamoyl]cyclopentylmethyl}butyric acid tert-butyl ester (diastereomer A) as a white solid, 45 mg (7%). The mother liquor from the recrystallization was concentrated under vacuum to afford an oil which was taken up in 25% ethyl acetate in hexane and allowed to stand overnight. A small amount of solid was removed by filtration and the solvent was evaporated to give an oil highly enriched in diastereomer B, 60 mg (9%).

reactant | 4-hydroxy-2-{1-[2-(4-methoxyphenyl)-1-(methylcarbamoyl)ethylcarbamoyl]cyclopentylmethyl}butyric acid tert-butyl ester | 1.05 mmol, 500 mg | C(C)(C)(C)OC(C(CCO)CC1(CCCC1)C(NC(CC1=CC=C(C=C1)OC)C(NC)=O)=O)=O | C26H40N2O6
reactant | 1,3-dioxo-1,3-dihydrobenzo[f]isoindole | 2.1 mmol, 414 mg | O=C1NC(C=2C=C3C(=CC12)C=CC=C3)=O | C12H7NO2
reactant | triphenylphosphine | 2.1 mmol, 550 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 2.1 mmol, 0.33 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 4-(1,3-dioxo-1,3-dihydrobenzo[f]isoindol-2-yl)-2-{1-[2-(4-methoxyphenyl)-1-(methylcarbamoyl)ethylcarbamoyl]cyclopentylmethyl}butyric acid tert-butyl ester | C(C)(C)(C)OC(C(CCN1C(C=2C=C3C(=CC2C1=O)C=CC=C3)=O)CC3(CCCC3)C(NC(CC3=CC=C(C=C3)OC)C(NC)=O)=O)=O | C38H45N3O7
